US06465491B2
1-(4-{2-[4-(6-Amino-pyridin-2-yl)-phenyl]-ethyl}-piperazin-1-yl)-2-(4-fluoro-phenyl)-ethanone
To a 50 mL round-bottomed flask equipped with nitrogen inlet were added 200 mg (0.71 mmol) 6-((2-(piperazin-1-yl)ethyl)phenyl)-pyridin-2-ylamine,10 mL dry dimethyformamide, 109 mg (0.71 mmol) 4-fluorophenylacetic acid, 204 mg (1.1 mmol) ethyl(3-dimethylaminopropyl)carbodiimide, and 0.36 mL (2.1 mmol) diisopropylethylamine. The reaction was stirred at room temperature for 18 hours, poured into water and extracted into ethyl acetate. The organic layer was extracted into 1 N hydrochloric acid, the aqueous layer washed with fresh ethyl acetate, and the aqueous layer basified with 1 N aqueous sodium hydroxide solution and extracted into ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and evaporated. The residue was chromatographed on silica gel using 3% methanol in methylene chloride to afford 100 mg (34%) of the product as a tan solid, mp 143-145° C.

reactant | 6-((2-(piperazin-1-yl)ethyl)phenyl)-pyridin-2-ylamine | 0.71 mmol, 200 mg | N1(CCNCC1)CCC1=C(C=CC=C1)C1=CC=CC(=N1)N | C17H22N4
reactant | 4-fluorophenylacetic acid | 0.71 mmol, 109 mg | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | ethyl(3-dimethylaminopropyl)carbodiimide | 1.1 mmol, 204 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | diisopropylethylamine | 2.1 mmol, 0.36 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | water | O | H2O
solvent | dimethyformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-(4-{2-[4-(6-Amino-pyridin-2-yl)-phenyl]-ethyl}-piperazin-1-yl)-2-(4-fluoro-phenyl)-ethanone | 100 mg, 34% | NC1=CC=CC(=N1)C1=CC=C(C=C1)CCN1CCN(CC1)C(CC1=CC=C(C=C1)F)=O | C25H27FN4O
